US07122555B2
b) (RS,RS,RS)-2-(Benzyl-tert-butoxycarbonyl-amino)-9,10-dimethoxy-1,3,4,6,7,11b-hexahydro-2H-pyrido [2,1-a]isoquinoline-3-carboxylic acid ethyl ester
Di-tert-butyl-dicarbonate (752 mg, 3.38 mmol) was added at r.t. to solution of (RS,RS,RS)-2-benzylamino-9,10-dimethoxy-1,3,4,6,7,11b-hexahydro-2H-pyrido[2,1-a]isoquinoline-3-carboxylic acid ethyl ester (1.30 g, 3.07 mmol) in dichloromethane (13 mL). After 16 h the solution was evaporated and the residue chromatographed (SiO2, heptane-EtOAc gradient) to produce the title compound (1.24 g, 77%). Yellow foam, MS (ISP) 525.3 (M+H)+.

reactant | Di-tert-butyl-dicarbonate | 3.38 mmol, 752 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (RS,RS,RS)-2-benzylamino-9,10-dimethoxy-1,3,4,6,7,11b-hexahydro-2H-pyrido[2,1-a]isoquinoline-3-carboxylic acid ethyl ester | 3.07 mmol, 1.30 g | C(C)OC(=O)C1C(CC2N(CCC3=CC(=C(C=C23)OC)OC)C1)NCC1=CC=CC=C1 | C25H32N2O4
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
product | (RS,RS,RS)-2-(Benzyl-tert-butoxycarbonyl-amino)-9,10-dimethoxy-1,3,4,6,7,11b-hexahydro-2H-pyrido [2,1-a]isoquinoline-3-carboxylic acid ethyl ester | 1.24 g, 77% | C(C)OC(=O)C1C(CC2N(CCC3=CC(=C(C=C23)OC)OC)C1)N(C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C30H40N2O6
